US03976633
A solution of 10.0 g. (0.026 mol.) of 1,3-bis(2-cyano-5-trifluoromethylphenyl)triazene and 1.8 g. of sodium hydride in 750 ml. of ether is added to a solution of 4.45 g. (0.026 mol.) of 3-bromopropionyl chloride in 50 ml. of ether. The reaction mixture is stirred for 12 hours at 25°, then filtered to remove the precipitate formed during the reaction. The filtrate is cooled to -10° and dimethylamine (0.026 mol.) is added. The mixture is cooled for 12 hours, concentrated in vacuo and the residue is washed with ether-hexane and dried in vacuo to give 3-[2-(N,N-dimethylamino)propionyl]-1,3-bis(2-cyano-5-trifluoromethylphenyl)triazene hydrobromide.

reactant | 1,3-bis(2-cyano-5-trifluoromethylphenyl)triazene | 0.026 mol | C(#N)C1=C(C=C(C=C1)C(F)(F)F)N=NNC1=C(C=CC(=C1)C(F)(F)F)C#N | C16H7F6N5
reactant | sodium hydride | [H-].[Na+]
reactant | 3-bromopropionyl chloride | 0.026 mol | BrCCC(=O)Cl | C3H4BrClO
reactant | dimethylamine | 0.026 mol | CNC | C2H7N
solvent | ether | CCOCC | C4H10O
product | 3-[2-(N,N-dimethylamino)propionyl]-1,3-bis(2-cyano-5-trifluoromethylphenyl)triazene hydrobromide | Br.CN(C)C(C(=O)N(N=NC1=C(C=CC(=C1)C(F)(F)F)C#N)C1=C(C=CC(=C1)C(F)(F)F)C#N)C | InChI=1S/C21H16F6N6O.BrH/c1-12(32(2)3)19(34)33(18-9-16(21(25,26)27)7-5-14(18)11-29)31-30-17-8-15(20(22,23)24)6-4-13(17)10-28;/h4-9,12H,1-3H3;1H
